US07504401B2
To a solution of 5-[3-hydroxy-5-(1H-indol-4-yl)-phenylamino]-pyridine-2-carbonitrile (83 mg, 0.25 mmol) in MeOH (1 mL) was added 50% NaOH solution in H2O (200 μL) and 30% H2O2 (500 μL), and the mixture was stirred for 16 h at room temperature. The solution was concentrated to half the volume with a gentle stream of nitrogen, and the solution was diluted by addition of water (2 mL). The aqueous solution was extracted with ethyl acetate (2 mL, three times). The combined solution of organic layer was dried and concentrated to give 5-[3-hydroxy-5-(1H-indol-4-yl)-phenylamino]-pyridine-2-carboxylic acid amide (58 mg, 0.168 mmol, 66%) as a solid. 1H NMR (400 MHz, CD3OD) δ 8.34 (dd, J=2.4, 0.4 Hz, 1H), 7.91 (dd, J=8.8, 0.4 Hz, 1H), 7.55 (m, 1H), 7.35 (dd, J=8.0, 0.4 Hz, 1H), 7.25 (d, J=3.2 Hz, 1H), 7.14 (t, J=7.8 Hz, 1H), 7.06 (dt, J=7.2, 0.8 Hz, 1H), 6.97 (m, 1H), 6.82 (m, 1H), 6.67 (m, 1H), 6.63 (dd, J=2.4, 0.4 Hz, 1H).

reactant | 5-[3-hydroxy-5-(1H-indol-4-yl)-phenylamino]-pyridine-2-carbonitrile | 0.25 mmol, 83 mg | OC=1C=C(C=C(C1)C1=C2C=CNC2=CC=C1)NC=1C=CC(=NC1)C#N | C20H14N4O
reactant | NaOH | [OH-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
solvent | H2O | 200 μL | O | H2O
solvent | H2O2 | 500 μL | OO | H2O2
product | 5-[3-hydroxy-5-(1H-indol-4-yl)-phenylamino]-pyridine-2-carboxylic acid amide | 0.168 mmol, 58 mg, 66% | OC=1C=C(C=C(C1)C1=C2C=CNC2=CC=C1)NC=1C=CC(=NC1)C(=O)N | C20H16N4O2
